US06716852B2
Step A: 1-(4-Bromophenyl)-3-chloro-1-propanone
45.3 g of aluminium chloride are stirred at room temperature in 80 ml of CH2Cl2. Maintaining vigorous stirring, a solution of β-propionic acid chloride (38.09 g, 28.7 ml, 0.3 mol) is poured slowly into 20 ml of CH2Cl2. The CH2Cl2-AlCl3-acid chloride complex forms quickly and the solution turns dark red. A solution of bromobenzene (47.1 g, 31.6 ml, 0.3 mol) is then introduced dropwise into 20 ml of CH2Cl2. The solution is then stirred for 15 hours at room temperature. The mixture is hydrolysed over 190 g of ice, to which 7.6 ml of concentrated acetic acid have been added. The organic phase is washed neutral and the solvent is removed by evaporation under reduced pressure. A dark red oil is obtained, from which the title compound is obtained in the form of a yellowish solid by extraction while hot with petroleum ether.

reactant | aluminium chloride | 45.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromobenzene | 0.3 mol, 31.6 ml, 47.1 g | BrC1=CC=CC=C1 | C6H5Br
reactant | acetic acid | 7.6 ml | C(C)(=O)O | C2H4O2
reactant | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Bromophenyl)-3-chloro-1-propanone | BrC1=CC=C(C=C1)C(CCCl)=O | C9H8BrClO
